US04199354
B. Dimethyl-2-nitro-5-chlorosulfonylisophthalate
Chlorine gas is passed into a stirred slurry of 6.4 g. of dimethyl-2-nitro-5-mercaptoisophthalate in a mixture of 50 ml. of acetic acid and 15 ml. of water. The temperature of the reaction rises to 70° C. as all the solid goes into solution. Introduction of chlorine is continued as a heavy precipitate forms. Stirring is continued for 15 min.; then the mixture is diluted with 300 ml. of water. The solid is collected, washed with water and dried, giving 7.5 g. of the sulfonyl chloride, m.p. 124°-125° C.

reactant | Chlorine | ClCl | Cl2
reactant | dimethyl-2-nitro-5-mercaptoisophthalate | COC(C1=C(C(C(=O)OC)=CC(=C1)S)[N+](=O)[O-])=O | C10H9NO6S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | O | H2O
product | Dimethyl-2-nitro-5-chlorosulfonylisophthalate | COC(C1=C(C(C(=O)OC)=CC(=C1)S(=O)(=O)Cl)[N+](=O)[O-])=O | C10H8ClNO8S
